US07846514B2
The compound (T17) and THF (1,000 ml) were put into a reaction vessel under an atmosphere of nitrogen, and chilled to −71° C. Then, a sec-butyl lithium solution (1.0 M in cyclohexane and n-hexane; 1,000 ml) were added dropwise thereto in the temperature range of −71° C. to −62° C., and the stirring was continued for additional 120 minutes. Subsequently, trimethyl borate (127.6 g) was added dropwise in the temperature range of −70° C. to −59° C., and the stirring was continued for additional 180 minutes. The resulting reaction mixture was allowed to come to 0° C., and then poured into a vessel containing 1N-hydrochloric acid (3,000 ml) and ethyl acetate (3,000 ml) which had been chilled at 0° C. and mixed. The mixture was then allowed to stand to be separated into an organic layer and an aqueous layer. Extraction was carried out and the resulting organic layer was fractionated. The extracts were washed with brine, and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, whereby 115.9 g of phenylboronic acid derivative (T18) was obtained.

reactant | THF | 1,000 ml | C1CCOC1 | C4H8O
reactant | sec-butyl lithium | 1.0 M, 1,000 ml | C(C)(CC)[Li]
reactant | trimethyl borate | 127.6 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 3,000 ml | Cl | ClH
solvent | ethyl acetate | 3,000 ml | C(C)(=O)OCC | C4H8O2
product | phenylboronic acid | 115.9 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
